US07626056B2
N-(4-Cyclopropylmethanesulfonyl-1-cyclopropylmethyl-cyclohexylmethyl)-2-methyl-6-trifluoromethyl-nicotinamide
To a stirred solution of C-(4-cyclopropylmethanesulfonyl-1-cyclopropylmethyl-cyclohexyl)-methylamine (200 mg; 0.701 mmol) and N-ethyldiisopropylamine (0.15 ml; 0.841 mmol) in DCM (5 ml) was added 2-methyl-6-(trifluoromethyl)nicotinoyl chloride (172 mg; 0.771 mmol). The mixture was stirred for 90 minutes. Water (4 ml) and DCM (4 ml) were added and the mixture was stirred vigorously for 5 minutes then passed through a PTFE separation frit. The organic phase was collected and evaporated in vacuo to give an oil. The crude product was chromatographed on silica eluted with 15% EtOAc in DCM to give a yellow oil, which still contained impurities. The oil was rechromatographed on silica eluted with 20% EtOAc in DCM to give a yellow oil. The oil was crystallised from EtOAC using hexane to give a white solid (170 mg). 1H NMR(500 MHz, CDCl3): δ 7.82 (1H, d, J7.8), 7.55 (1H, d, J 7.9), 5.90 (1H, t, J 6.0), 3.61 (2H, d, J 6.4), 2.98-2.88 (3H, m), 2.72 (3H, s), 2.07-1.85 (6H, m), 1.43-1.37 (2H, m), 1.24 (2H, d, J 6.6), 1.20-1.12 (1H, m), 0.77-0.69 (3H, m), 0.54-0.50 (2H, m), 0.42-0.40 (2H, m), 0.06-0.04 (2H, m). MS (m/e)=473. MPt=148-151° C.

reactant | C-(4-cyclopropylmethanesulfonyl-1-cyclopropylmethyl-cyclohexyl)-methylamine | 0.701 mmol, 200 mg | C1(CC1)CS(=O)(=O)C1CCC(CC1)(CC1CC1)CN | C15H27NO2S
reactant | N-ethyldiisopropylamine | 0.841 mmol, 0.15 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-methyl-6-(trifluoromethyl)nicotinoyl chloride | 0.771 mmol, 172 mg | CC1=C(C(=O)Cl)C=CC(=N1)C(F)(F)F | C8H5ClF3NO
reactant | Water | 4 ml | O | H2O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | N-(4-Cyclopropylmethanesulfonyl-1-cyclopropylmethyl-cyclohexylmethyl)-2-methyl-6-trifluoromethyl-nicotinamide | 170 mg | C1(CC1)CS(=O)(=O)C1CCC(CC1)(CC1CC1)CNC(C1=C(N=C(C=C1)C(F)(F)F)C)=O | C23H31F3N2O3S
